US05286894
A solution of the Grignard reagent prepared from part of the mixture of isomers of 1-phenyl-2-(2-bromophenyl)ethylene described above (5.58 g) and magnesium (0.63 g) in dry THF (20 ml) was added dropwise over 30 mins. to a stirred solution of dimethyl oxalate (5.06 g) in dry THF (40 ml) cooled to -15° C. The resulting mixture was stirred at about -15° C. for 30 minutes, then at room temperature for 1 hour, then poured into dilute hydrochloric acid and extracted with ether. The extracts were washed with water, dried, concentrated under reduced pressure, then chromatographed twice [(i) 30% ether in petrol; (ii) 20% hexane in dichloromethane] to give isomerically pure Z-methyl 2-(2'-phenylethenyl)phenylglyoxalate (1.76 g, 31% yield) as a yellow oil, 1H nmr (CDCl3) : delta 3.87 (3H, s), 6.78 (centre of 2 doublets, each 1 H, J 12Hz) p.p.m.

reactant | 1-phenyl-2-(2-bromophenyl)ethylene | C1(=CC=CC=C1)C=CC1=C(C=CC=C1)Br | C14H11Br
reactant | magnesium | 0.63 g | [Mg] | Mg
reactant | dimethyl oxalate | 5.06 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Z-methyl 2-(2'-phenylethenyl)phenylglyoxalate | 1.76 g, 31% yield | C1(=CC=CC=C1)\C=C/C1=C(C=CC=C1)C(C(=O)OC)=O | C17H14O3
